US05521179
2-[3-Amino-6-(3,5-dimethoxyphenyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
2-[3-Benzyloxycarbonylamino-6-(3,5-dimethoxyphenyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide was subjected to the conditions described in Example 159, except with shaking under a 2.7 bar hydrogen atmosphere, to give the title compound. Chromatography solvent: Dichloromethane:methanol (98:2, 95:5); TLC: Rf =0.35, dichloromethane:methanol (95:5); MS: m/z=456(M+1).

reactant | 2-[3-Benzyloxycarbonylamino-6-(3,5-dimethoxyphenyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)C1=CC(=CC(=C1)OC)OC)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C29H30F3N3O7
reactant | hydrogen | [H][H] | H2
product | 2-[3-Amino-6-(3,5-dimethoxyphenyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | NC=1C(N(C(=CC1)C1=CC(=CC(=C1)OC)OC)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C21H24F3N3O5
